US08067445B2
Step 4: (3-Trifluoromethanesulfonyloxy-5-trifluoromethyl-phenyl)acetic acid methyl ester
To a solution of (3-hydroxy-5-trifluoromethyl-phenyl)-acetic acid methyl ester (0.5 g, 2.1 mmol) in DMF (10 mL) was added cesium carbonate (1.4 g, 4.3 mmol), followed by N-phenyl-bis(trifluoromethanesulfonimide) (0.83 g, 2.3 mmol), and the reaction was stirred at room temperature for 1 hour. Once no starting material was seen by analytical LCMS, the mixture was worked up with EtOAc and H2O, and the residue was purified by silica gel chromatography to give the title compound.

reactant | (3-hydroxy-5-trifluoromethyl-phenyl)-acetic acid methyl ester | 2.1 mmol, 0.5 g | COC(CC1=CC(=CC(=C1)C(F)(F)F)O)=O | C10H9F3O3
reactant | cesium carbonate | 4.3 mmol, 1.4 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | N-phenyl-bis(trifluoromethanesulfonimide) | 2.3 mmol, 0.83 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | H2O | O | H2O
product | (3-Trifluoromethanesulfonyloxy-5-trifluoromethyl-phenyl)acetic acid methyl ester | COC(CC1=CC(=CC(=C1)C(F)(F)F)OS(=O)(=O)C(F)(F)F)=O | C11H8F6O5S
